US08420695B2
Step 3. 2-{3,5-Difluoro-4-[2-methoxyvinyl]phenyl}propan-2-ol
To a cooled (−78° C.) solution of 2-(4-bromo-2,6-difluorophenyl)vinyl methyl ether (45 g, 0.18 mol) in methyl tert-butyl ether (300 mL) was added n-BuLi (75 mL of 2.5M in hexanes, 0.19 mol), and the mixture was stirred at −78° C. for one hour. A solution of acetone (13.6 g, 0.24 mol) in methyl tert-butyl ether (100 mL) was added dropwise to the reaction mixture and the resulting solution was stirred at −78° C. for two hours. Water (90 ml) was added to quench the reaction. The resulting biphasic mixture was extracted with ethyl acetate (2×). The organic layers were dried and concentrated in vacuo. Purification via flash chromatography afforded the title compound.

reactant | 2-(4-bromo-2,6-difluorophenyl)vinyl methyl ether | 0.18 mol, 45 g | COC=CC1=C(C=C(C=C1F)Br)F | C9H7BrF2O
reactant | n-BuLi | 0.19 mol, 2.5M, 75 mL | [Li]CCCC
reactant | acetone | 0.24 mol, 13.6 g | CC(=O)C | C3H6O
reactant | Water | 90 ml | O | H2O
solvent | methyl tert-butyl ether | 300 mL | C(C)(C)(C)OC | C5H12O
solvent | methyl tert-butyl ether | 100 mL | C(C)(C)(C)OC | C5H12O
product | 2-{3,5-Difluoro-4-[2-methoxyvinyl]phenyl}propan-2-ol | FC=1C=C(C=C(C1C=COC)F)C(C)(C)O | C12H14F2O2
